US04625026
2-Amino-5, 6, 7, 8, 9, 10, 11, 12, 13,14-decahydrocyclododeca (d) pyrimidin-4-ol
A mixture of ethyl-2-cyclododecanone carboxylate (4.0 g) and guanidine carbonate (3.12 g) in xylene (50 ml) was refluxed overnight; after cooling the white solid was collected by filtration, washed with water, and recrystallized from ethanol. 2.15 g of a white powder were recovered.

reactant | guanidine carbonate | 3.12 g | C(O)(O)=O.NC(=N)N
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Amino-5, 6, 7, 8, 9, 10, 11, 12, 13,14-decahydrocyclododeca (d) pyrimidin-4-ol | NC=1N=C(C2=C(N1)CCCCCCCCCC2)O | C14H23N3O
